US08466282B2
Tert-butyl (3S)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
1-(4-Methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole (470 mg) and tert-butyl (3S)-3-[(2-methylpropyl)amino]piperidine-1-carboxylate (400 mg) were dissolved in acetonitrile (30 ml) and water (15 ml), potassium carbonate (2.02 g) was added, and the mixture was stirred at 80° C. for 15 hr. The reaction mixture was cooled to room temperature and diluted with saturated brine. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (60:40) was concentrated under reduced pressure to give the object product (446 mg).

reactant | 1-(4-Methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole | 470 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(Cl)(Cl)Cl | C13H15Cl3N2O
reactant | tert-butyl (3S)-3-[(2-methylpropyl)amino]piperidine-1-carboxylate | 400 mg | CC(CN[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C14H28N2O2
reactant | potassium carbonate | 2.02 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 15 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
product | Tert-butyl (3S)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 446 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CC(C)C | C27H42N4O4
